US07863283B2
(RS)-S-Ethyl-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}-methyl)phenyl]sulphoximide
According to GWP 6, the conversion of (RS)-N-(ethoxycarbonyl)-S-ethyl-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]sulphoximide (64 mg, 0.13 mmol) and chromatographic purification (silica gel, hexane, ethyl acetate/methanol: 0→10% methanol, followed by dichloromethane/methanol: 0→15% methanol) gives the desired product in 82% yield (45 mg).

reactant | (RS)-N-(ethoxycarbonyl)-S-ethyl-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]sulphoximide | 0.13 mmol, 64 mg | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC(C)C)OC)CC | C24H30N4O5S
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | methanol | CO | CH4O
solvent | dichloromethane methanol | ClCCl.CO
product | (RS)-S-Ethyl-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}-methyl)phenyl]sulphoximide | 82% yield | C(C)S(=O)(=N)C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC(C)C)OC | C21H26N4O3S
